US05696118
Example 41: Preparation of 4-amino-3-nitrobenzoic acid morpholide ([4]-(42)-592)
A mixture of 4-amino-3-nitrobenzoic acid (7.40 g), 1-hydroxybenzotriazole (6.59 g) , dicyclohexylcarbodiimide (10.90 g) , dry N,N-dimethylformamide (74 ml), and morpholine (4.3 ml) was stirred at room temperature for 2 hours. The insolubles were filtered out, and washed with N,N-dimethylformamide. The filtrate and the washing were combined, and concentrated to obtain a yellowish brown solid (16.01 g).

reactant | 4-amino-3-nitrobenzoic acid | 7.40 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | 1-hydroxybenzotriazole | 6.59 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 10.90 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | morpholine | 4.3 ml | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 74 ml | CN(C=O)C | C3H7NO
product | 4-amino-3-nitrobenzoic acid morpholide | 16.01 g | NC1=C(C=C(C(=O)N2CCOCC2)C=C1)[N+](=O)[O-] | C11H13N3O4
